US07534908B2
1d: Preparation of (R)-3-methylheptanoic acid
At room temperature, 60 g of [(R)-1-methylpentyl]-malonic acid (0.318 mol) were dissolved in 120 ml of xylene in a three-neck flask with internal thermometer, condenser and stirrer. The mixture was heated to 125° C. for 5 h. After cooling to 25° C., the mixture was admixed with 200 ml of 2N sodium hydroxide solution. After phase separation, the aqueous phase was admixed with 200 ml of ether and, with cooling, with 180 ml of 15% by weight hydrochloric acid. After phase separation, the aqueous phase was extracted twice with 100 ml of ether. The combined organic phases were washed with 50 ml of water and then dried over sodium sulfate. After solvent had been distilled off, (R)-3-methylheptanoic acid was distilled and obtained in a yield of 35.5 g (77% of theory) with >99% ee and >99% chemical purity (b.p.: 67-68° C. at 0.45 mbar).

reactant | [(R)-1-methylpentyl]-malonic acid | 0.318 mol, 60 g | C[C@H](CCCC)C(C(=O)O)C(=O)O | C9H16O4
reactant | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
solvent | xylene | 120 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (R)-3-methylheptanoic acid | C[C@@H](CC(=O)O)CCCC | C8H16O2
